US03948914
30 ml of triethylamine are added to 32.5 g (0.156 mol) of 2-methyl- 4,6-dichloro-5-nitro-pyrimidine. At -18°C, 3.5 g of isopropylamine (0.16 mol) are added dropwise and the mixture is then stirred for 1 1/4 hours at this temperature. The mixture is subsequently poured on 4 liters of water, the precipitate is filtered off with suction, and washed 3 times with water. The crude product is dried at 50°C and 11 Torr for 16 hours, to yield 26.4 g of 2-methyl-4-chloro-5-nitro-isopropylamino-pyrimidine with a melting point of 69°-72°C. The pure substance (recrystallised from hexane) melts at 77°-79°C.

reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methyl- 4,6-dichloro-5-nitro-pyrimidine | 0.156 mol, 32.5 g | CC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C5H3Cl2N3O2
reactant | isopropylamine | 0.16 mol, 3.5 g | C(C)(C)N | C3H9N
solvent | water | 4 liters | O | H2O
product | 2-methyl-4-chloro-5-nitro-isopropylamino-pyrimidine | 26.4 g | CC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])NC(C)C | C8H11ClN4O2
